US20010018525A1
Carbamic acid 2-[3-bromo-5-(8-phenyl-octylcarbamoyl)-3′-trifluoromethyl-biphenyl-2-yloxy]-ethyl ester
To a solution of N-(8-phenyl-octyl)-3-bromo-5-(m-trifluoromethylphenyl)-4-(2-hydroxyethoxy)-benzamide (0.463 g, 0.78 mmol, 1 eq) in CH2C12 (10 mL) was added trichloroacetyl isocyanate (0.100 mL, 0.84 mmol, 1.1 eq) The reaction was stirred at rt 15 minutes and oven-dried alumina was added. The reaction was stirred overnight at rt and concentrated in vacuo. The residue was purified by flash chromatography (30 to 60% EtOAc:hexane) to afford the title compound (0.308 g, 62%) as a oil. 1H NMR (DMSO-d6) δ8.56 (bt, 1H); 8.13 (d, 1H); 7.89 (m, 3H); 7.72 (dd, 1H); 7.24 (m, 2H); 7.14 (m, 3H); 6.40 (bs, 2H); 3.90 (dd, 2H); 3.70 (dd, 2H); 3.23 (dd, 2H); 2.52 (t, 2H); 1.25 (m, 4H); 1.27 (m, 8H); IR (KBr) 3330, 2920, 2850, 1720, 1640, 1600, 1550, 1460, 1410, 1330, 1180, 1120 cm−1; mass spectrum [(+)ESI], m/z 635/637 (M+H)+; Anal. Calcd. for C31H34BrF3N2O4: C, 58.59; H, 5.39; N, 4.41, Found: C, 57.26; H, 5.46; N, 4.38.

reactant | N-(8-phenyl-octyl)-3-bromo-5-(m-trifluoromethylphenyl)-4-(2-hydroxyethoxy)-benzamide | 0.78 mmol, 0.463 g, 1 eq | C1(=CC=CC=C1)CCCCCCCCNC(C1=CC(=C(C(=C1)C1=CC(=CC=C1)C(F)(F)F)OCCO)Br)=O | C30H33BrF3NO3
reactant | trichloroacetyl isocyanate | 0.84 mmol, 0.100 mL, 1.1 eq | ClC(C(=O)N=C=O)(Cl)Cl | C3Cl3NO2
product | Carbamic acid 2-[3-bromo-5-(8-phenyl-octylcarbamoyl)-3′-trifluoromethyl-biphenyl-2-yloxy]-ethyl ester | 0.308 g, 62% | BrC=1C(=C(C=C(C1)C(NCCCCCCCCC1=CC=CC=C1)=O)C1=CC(=CC=C1)C(F)(F)F)OCCOC(N)=O | C31H34BrF3N2O4
